US08003783B2
16-Benzylidene-3-hydroxy-13-methyl-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-one (CAB01122, STX312).
Potassium hydroxide (1.0 g) was added to a solution of estrone (1.350 g, 5.0 mmol) and benzaldehyde (1.0 g, 9.4 mmol) in methanol (50 ml) at room temperature. The resulting orange solution was stirred at this temperature for 4 h. Then glacial acetic acid (ca. 5 ml) was added with stirring. The colour changed to light yellow and a white solid precipitated. The solid was filtered off and washed with water (50 ml), methanol (20 ml), diethyl ether (50 ml) and hexane and dried under high vacuum. Yield 1.578 g (88%). H-NMR (CDCl3, 400 MHz), δ: 1.00 (s, 3H), 1.40-1.77 (m, 5H), 2.04-2.12 (m, 2H), 2.26-2.34 (m, 1H), 2.38-2.45 (m, 1H), 2.50-2.60 (m, 1H) 2.86-3.03 (m, 3H), 4.76 (s, 1H, —OH), 6.60 (d, J=2.3 Hz, 1H), 6.66 (dd, J=8.2, 2.3 Hz, 1H), 7.17 (d, J=8.2 Hz, 1H), 7.34-7.45 (m, 3H), 7.48 (s, 1H), 7.54-7.59 (m, 2H). LRMS (FAB+): 359.2 (100, [M+H]+). LRMS (FAB−): 357.2 (100, [M−H]−). HRMS (FAB+) 359.202332 C25H27O2 requires 359.201105

reactant | Potassium hydroxide | 1.0 g | [OH-].[K+]
reactant | estrone | 5.0 mmol, 1.350 g | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CCC2=O)O | C18H22O2
reactant | benzaldehyde | 9.4 mmol, 1.0 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | ca. 5 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
product | 16-Benzylidene-3-hydroxy-13-methyl-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-one | C(C1=CC=CC=C1)=C1CC2C3CCC=4C=C(C=CC4C3CCC2(C1=O)C)O | C25H26O2
